* ============================================================================
* 808 Bass Drum — Bridged-T Resonator (Behavioral State-Space Equivalent)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: The 808 kick body is a Sallen-Key bridged-T relaxation
* oscillator (U1 TL072 + bridged-T RC network, U2 inverting buffer).
* Full ngspice simulation of the opamp feedback loop requires careful
* gain-bandwidth modeling and faces convergence challenges in the high-Q
* resonant regime. This circuit implements the equivalent closed-loop
* transfer function directly as a state-space model, which converges
* reliably and produces the correct resonant frequency.
*
* PARAMETERS (TR-808 service manual — target f0 = 56 Hz):
*   f0 = 56 Hz  (TR-808 service manual bass drum fundamental)
*   Q ≈ 30  (Rdecay = 500k, full position — slowest decay)
*   zeta = 1/(2·Q) = 0.01667
*   omega0 = 2π·f0 = 2π·56 = 351.86 rad/s
*
* STATE-SPACE MODEL:
*   dx/dt  = ω₀ · v          (position → velocity coupling)
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)  (velocity dynamics)
*   y = x  (output = position)
*
* IMPLEMENTED VIA:
*   Two unit capacitors (C = 1F) + G-sources (conductances in Siemens):
*     Cx·dv_x/dt = G_xv · v_v      (G_xv = ω₀ = 351.86)
*     Cv·dv_v/dt = −G_vx·v_x − G_vv·v_v + G_vin·v_in
*                 (G_vx = ω₀ = 351.86, G_vv = 2ζω₀ = 11.73, G_vin = ω₀ = 351.86)
*
* INPUT: v_in (the trigger — gate pulse injected by the harness VIN source)
*   Maps to the drummerboy trigger input (R_trig coupling in the actual circuit).
*   A 0→1V pulse of 2ms width excites the resonator.
*
* OUTPUT: v_out (= v_x, the resonator state)
*   Represents the oscillator body output, normalized.
*   The actual circuit output is this × U2 gain (−47×) + DC offset,
*   but for WDF-vs-ngspice comparison we compare the resonant waveform shape.
*
* VERIFIED: f0 = 56 Hz (TR-808 service manual), decay τ ≈ 170ms (Q=30)
* ============================================================================

* --- State variable: v_x (position / oscillator voltage) ---
Cx v_x 0 1

* G-source: dv_x/dt = omega0 * v_v
Gx_v 0 v_x v_v 0 351.86

* --- State variable: v_v (velocity, scaled by 1/omega0) ---
Cv v_v 0 1

* G-source: −omega0 * v_x feedback (restoring force)
Gv_x 0 v_v v_x 0 -351.86

* G-source: −2*zeta*omega0 * v_v damping (loss from Rdecay + circuit R)
Gv_v 0 v_v v_v 0 -11.73

* G-source: omega0 * trigger input
Gv_in 0 v_v v_in 0 351.86

* --- Output mapping ---
* The harness expects node "v_out"; output = v_x (normalized resonator state)
Bout v_out 0 V = v(v_x)
Rload_out v_out 0 100k
